US05578624
(B) 2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-1-(2, 3-dihydro-1H-isoindol-2-yl)-ethanone
To a mixture of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]acetamide (2.56 g, 9.2 mmol) in DMF (40 ml) was chipped in sodium hydride (770 mg, 60% in oil, 20.1 mmol) at room temperature under N2. The mixture was heated to 65° C. for 3 hours. α,α'-dibromoxylene (2.43 g, 9.2 mmol) was added and the resulting mixture was heated at 70° C. for 4 hours, then left standing overnight for 16 hours. The DMF mixture was poured into H2O (400 ml) and the organics were extracted into ethyl acetate (250 ml). The ethyl acetate solution was washed with brine and dried over MgSO4. The solvent was removed and the residue was purified by flash chromatography over a silica gel column (SIO2, 45 gm; eluted with 1% CH3OH: 99% DCM). The product thus purified as a white solid weighed 1.73 g. Recrystallization from a small amount of ethanol yielded white crystals: 1.65 g, m.p. 184°-185° C.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]acetamide | 9.2 mmol, 2.56 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(=O)N)C=C1 | C14H16FN3O2
reactant | sodium hydride | 20.1 mmol, 770 mg | [H-].[Na+]
reactant | α,α'-dibromoxylene | 9.2 mmol, 2.43 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | H2O | 400 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-1-(2, 3-dihydro-1H-isoindol-2-yl)-ethanone | FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(=O)N2CC3=CC=CC=C3C2)C=C1 | C22H22FN3O2
